US08633212B2
A mixture of 2-(2-carboxyvinyl)benzoic acid (5 g, 26 mmol) in MeOH (45 mL) was bubbled with H2 (10 psi) at room temperature overnight. The mixture was filtered and the filtrate was concentrated to give 2-(2-carboxyethyl)benzoic acid (5.2 g, 100%). 1H-NMR (CDCl3): 2.61 (m, 2H), 3.21 (m, 2H), 7.22 (m, 2H), 7.38 (m, 1H), 7.88 (m, 1H).

reactant | 2-(2-carboxyvinyl)benzoic acid | 26 mmol, 5 g | C(=O)(O)C=CC1=C(C(=O)O)C=CC=C1 | C10H8O4
solvent | MeOH | 45 mL | CO | CH4O
product | 2-(2-carboxyethyl)benzoic acid | 5.2 g, 100% | C(=O)(O)CCC1=C(C(=O)O)C=CC=C1 | C10H10O4
